US05420275
3-Amino-6-bromo-4,5-diethoxycarbonyl-2-phenylpyridine
In 25 ml of ethanol was dissolved 550 mg of 2-bromo-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine, whereto 0.36 g (5 eq.) of reduced iron was added, followed by heating to 60° C. After 1.5 ml (16 eq.) of acetic acid was added dropwise, the mixture was refluxed for 1 hour.

reactant | 2-bromo-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine | 550 mg | BrC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1 | C17H15BrN2O6
reactant | acetic acid | 1.5 ml, 16 eq. | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Amino-6-bromo-4,5-diethoxycarbonyl-2-phenylpyridine | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Br)C1=CC=CC=C1 | C17H17BrN2O4
